US05380721
A mixture of 3-bromopyridine (4.82 mL, 0.05 mol), palladium acetate (0.22 g, 0.02 equiv.), tri-(o-tolyl)phosphine (0.61 g, 0.04 equiv.), methyl acrylate (9.01 mL, 2 equiv.), triethylamine (12.5 mL) and CH3CN (25 mL) was sealed in a bomb and heated to 100° C. for 3.5 hours. The mixture was cooled in an ice-bath, the bomb was vented and the reaction mixture was concentrated in vacuo. The residue was extracted with 0.5N HCl/Et2O (3×), the organic layer was backwashed with additional 0.5N HCl and the aqueous layers were combined, basified with saturated NaHCO3 and extracted with ether. The ether layer was washed with brine, dried over Na2SO4 and concentrated in vacuo to afford 7.89 g (97%) of methyl 3-(3-pyridyl)-2-propenoate.

reactant | 3-bromopyridine | 0.05 mol, 4.82 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | tri-(o-tolyl)phosphine | 0.61 g, 0.04 equiv. | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | methyl acrylate | 9.01 mL, 2 equiv. | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 12.5 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.22 g, 0.02 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | methyl 3-(3-pyridyl)-2-propenoate | 7.89 g, 97% | N1=CC(=CC=C1)C=CC(=O)OC | C9H9NO2
